US08389509B2
5-Amino-1-phenyl-1H-pyrazole-4-carboxylic acid (1.8 g, 8.86 mmol), HOBt (1.357 g, 8.86 mmol) and EDCI (1.698 g, 8.86 mmol) were dissolved in DMF (12 mL) under nitrogen at room temperature. The resulting clear, pale yellow solution was stirred for 30 minutes then N-hydroxy-4-(hydroxymethyl)benzimidamide (1.472 g, 8.86 mmol) was added in several portions. The reaction was placed in an oil bath set to 130° C. After 4 hours, the solution was cooled to RT and then added to rapidly stirring water (50 mL). The initial precipitate was stirred and sonicated to give a yellow solid which was collected by filtration, washed with water, air dried and then dried under vacuum to afford (4-(5-(5-amino-1-phenyl-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)methanol (1.5 g 4.05 mmol).

reactant | 5-Amino-1-phenyl-1H-pyrazole-4-carboxylic acid | 8.86 mmol, 1.8 g | NC1=C(C=NN1C1=CC=CC=C1)C(=O)O | C10H9N3O2
reactant | HOBt | 8.86 mmol, 1.357 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 8.86 mmol, 1.698 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-hydroxy-4-(hydroxymethyl)benzimidamide | 8.86 mmol, 1.472 g | ONC(C1=CC=C(C=C1)CO)=N | C8H10N2O2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | (4-(5-(5-amino-1-phenyl-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)methanol | 4.05 mmol, 1.5 g | NC1=C(C=NN1C1=CC=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)CO | C18H15N5O2
